US07157488B2
Combine 2-bromo-5-trifluoromethylphenylamine (27.06 g, 112.74 mmol) and 200 mL of pyridine. Cool in an ice bath and add ethyl chloroformate (18.35 g, 169.11 mL, 1.5 eq). After addition was complete, allow the reaction to gradually warming to room temperature. After 18 hours, evaporate in vacuo to give a residue. Dissolve the residue in Et2O/water and transfer to a separatory funnel. Separate the layer and extract the aqueous layer with Et2O (2×300 mL), combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give N-(2-bromo-5-trifluoromethylphenyl)carbamic acid ethyl ester which may be used without further purification.

reactant | 2-bromo-5-trifluoromethylphenylamine | 112.74 mmol, 27.06 g | BrC1=C(C=C(C=C1)C(F)(F)F)N | C7H5BrF3N
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 169.11 mL, 18.35 g, 1.5 eq | ClC(=O)OCC | C3H5ClO2
solvent | Et2O water | CCOCC.O
product | N-(2-bromo-5-trifluoromethylphenyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C10H9BrF3NO2
